US07199150B2
A mixture of 35% aqueous formaldehyde solution (20.8 ml, 264.3 mmol) and dimethylamine hydrochloride (22.70 g, 278.4 mmol) was added to 1-methylpyrrole (21.42 g, 264.1 mmol) with stirring under ice-cooling over a 90-minute interval, and then the resulting mixture was stirred at room temperature for 6 hours. After stirring, 10% aqueous sodium hydroxide solution (150 ml) was added to the reaction mixture, and the reaction mixture was extracted with ether. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After filtration, the solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of dichloromethane and methanol (10:1) as the eluent to afford 2-(N,N-dimethylaminomethyl)-1-methylpyrrole (31.47 g, yield: 86%).

reactant | formaldehyde | 264.3 mmol, 20.8 ml | C=O | CH2O
reactant | dimethylamine hydrochloride | 278.4 mmol, 22.70 g | Cl.CNC
reactant | 1-methylpyrrole | 264.1 mmol, 21.42 g | CN1C=CC=C1 | C5H7N
solvent | sodium hydroxide | 150 ml | [OH-].[Na+]
product | 2-(N,N-dimethylaminomethyl)-1-methylpyrrole | 31.47 g, yield: 86% | CN(C)CC=1N(C=CC1)C | C8H14N2
